US04552585
Part C Synthesis of 2-(2-chloro-4-[(N-methoxy-N-methylamino)carbonylamino]phenyl)methyl-5,6-dihydro-4,4-dimethyl-2H-1,2-oxazin-3(4H)-one (Compound 29)
This compound was prepared in the manner of Example 1, Step C; using 1.3 grams (0.01 mole) of 5,6-dihydro-4,4-dimethyl-2H-1,2-oxazin-3(4H)-one, 3.1 grams (0.01 mole) of 2-chloro-4-[(N-methoxy-N-methylamino)carbonylamino]phenylmethyl bromide, 1.4 grams (0.01 mole) of potassium bromide and 0.1 gram (0.0004 mole) of 1,4,7,10,13,16-hexaoxacyclooctadecane in 50 ml of acetonitrile. The yield of 2-(2-chloro-4-[(N-methoxy-N-methylamino)carbonylamino]phenyl)methyl-5,6-dihydro-4,4-dimethyl-1H-1,2,-oxazin-3(4H)-one was 2.9 grams; m.p. 116°-118° C.

reactant | 5,6-dihydro-4,4-dimethyl-2H-1,2-oxazin-3(4H)-one | 0.01 mole, 1.3 grams | CC1(C(NOCC1)=O)C | C6H11NO2
reactant | 2-chloro-4-[(N-methoxy-N-methylamino)carbonylamino]phenylmethyl bromide | 0.01 mole, 3.1 grams | ClC1=C(C=CC(=C1)NC(=O)N(C)OC)CBr | C10H12BrClN2O2
reactant | potassium bromide | 0.01 mole, 1.4 grams | [Br-].[K+]
reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | 0.0004 mole, 0.1 gram | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
reactant | oxazin-3(4H)-one | O1NC(CC=C1)=O | C4H5NO2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-(2-chloro-4-[(N-methoxy-N-methylamino)carbonylamino]phenyl)methyl-5,6-dihydro-4,4-dimethyl-2H-1,2-oxazin-3(4H)-one | ClC1=C(C=CC(=C1)NC(=O)N(C)OC)CN1OCCC(C1=O)(C)C | C16H22ClN3O4
